US06420364B1
{[1-(4-Cyano-1-propyl-piperidin-4-ylcarbamoyl)-2-cyclohexyl-ethylimino]-morpholin-4-yl-methyl}-carbamic Acid Ethyl Ester
The title compound was prepared starting from (Morpholine-4-carbothioyl)-carbamic acid ethyl ester and 2-amino-N-(-4-cyano-1-propyl-piperidin-4-yl)-3-cyclohexylpropionamide bis hydrochloride salt according to the procedure from Example 76, step b, except that the compound was first purified by chromatography over silica gel using 9:1 methylene chloride : methanol as the eluant prior to reverse phase HPLC purification. MS, m/z 505=M+1.

reactant | (Morpholine-4-carbothioyl)-carbamic acid ethyl ester | C(C)OC(NC(=S)N1CCOCC1)=O | C8H14N2O3S
reactant | 2-amino-N-(-4-cyano-1-propyl-piperidin-4-yl)-3-cyclohexylpropionamide bis hydrochloride salt | Cl.Cl.NC(C(=O)NC1(CCN(CC1)CCC)C#N)CC1CCCCC1
product | {[1-(4-Cyano-1-propyl-piperidin-4-ylcarbamoyl)-2-cyclohexyl-ethylimino]-morpholin-4-yl-methyl}-carbamic Acid Ethyl Ester | C(C)OC(NC(N1CCOCC1)=NC(CC1CCCCC1)C(NC1(CCN(CC1)CCC)C#N)=O)=O | C26H44N6O4
